US04707361
adding to the solution additional amounts of the slaked lime slurry as well as a stabilizing amount of a pyrophosphate, to form a dicalcium phosphate dihydrate slurry having a pH ranging from about 4.9 to about 5.5, temperatures in steps 1 and 2 not to exceed about 40° C.;

reactant | slaked lime | [OH-].[Ca+2].[OH-]
reactant | pyrophosphate | [O-]P([O-])(=O)OP(=O)([O-])[O-]
product | dicalcium phosphate dihydrate | O.O.P(=O)([O-])([O-])[O-].[Ca+2].[Ca+2] | InChI=1S/2Ca.H3O4P.2H2O/c;;1-5(2,3)4;;/h;;(H3,1,2,3,4);2*1H2/q2*+2;;;/p-3
